US07109186B2
Compound 783: 4-{4-[(4-Fluoro-2-methylsulfanyl-benzyl)-methyl-carbamoyl]-3-hydroxy-2-oxo-2,5-dihydro-pyrrol-1-yl}-butyric acid
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-2-methylsulfanyl-benzyl)-N-methyl-acetamide was reacted with paraformaldehyde and 4-amino-butyric acid as described in Method 44B to give the title compound as a white solid (0.05 g, 49% yield). 1HNMR (300 MHz, CDCl3) δ: 7.11 (1H, dd, J=8.42, 5.85 Hz), 6.91 (1H, dd, J=9.52, 2.57 Hz), 6.82 (1H, td, J=8.41, 2.56 Hz), 4.64 (2H, s), 4.15 (2H, s), 3.55 (2H, t, J=6.96 Hz), 2.98 (3H, s), 2.47 (3H, s), 2.38 (2H, t, J=6.95 Hz), 1.96–1.88 (2H, m).

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-2-methylsulfanyl-benzyl)-N-methyl-acetamide | CC1(OC(C(O1)=CC(=O)N(C)CC1=C(C=C(C=C1)F)SC)=O)C | C16H18FNO4S
reactant | paraformaldehyde | C=O | CH2O
reactant | 4-amino-butyric acid | NCCCC(=O)O | C4H9NO2
product | 4-{4-[(4-Fluoro-2-methylsulfanyl-benzyl)-methyl-carbamoyl]-3-hydroxy-2-oxo-2,5-dihydro-pyrrol-1-yl}-butyric acid | 0.05 g, 49% yield | FC1=CC(=C(CN(C(=O)C2=C(C(N(C2)CCCC(=O)O)=O)O)C)C=C1)SC | C18H21FN2O5S
